US06294558B1
3-(4-Bromophenyl)-4-(3-fluorophenyl)-5-methylisoxazole. (step 3)
The title compound was prepared according to the procedure of step 2 in the Example 168 using 3-(4-bromophenyl)-4-(3-fluorophenyl)-5-methyl-4,5-dihydro-5-isoxazolol, instead of 3-(4-bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol.

reactant | 3-(4-bromophenyl)-4-(3-fluorophenyl)-5-methyl-4,5-dihydro-5-isoxazolol | BrC1=CC=C(C=C1)C1=NOC(C1C1=CC(=CC=C1)F)(O)C | C16H13BrFNO2
reactant | 3-(4-bromophenyl)-4-(3-fluoro-4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol | BrC1=CC=C(C=C1)C1=NOC(C1C1=CC(=C(C=C1)SC)F)(O)C | C17H15BrFNO2S
product | 3-(4-Bromophenyl)-4-(3-fluorophenyl)-5-methylisoxazole | BrC1=CC=C(C=C1)C1=NOC(=C1C1=CC(=CC=C1)F)C | C16H11BrFNO
